US07244776B2
2-Amino-5-α-cumylbenzoic Acid
A mixture of anthranilic acid (82 g, 0.6 mol), α-methylstyrene (168 mL, 1,28 mol), zinc chloride (82 g, 0.6 mol) and concentrated hydrochloric acid (100 mL) is heated to 120° C. for four hours. The mixture is cooled and diluted with water (100 mL). The pH is adjusted to approximately 4 using 50% sodium hydroxide. The resulting solids are collected, washed with water and then partitioned between methylene chloride and water. The pH is adjusted to 5–6 with dilute hydrochloric acid giving two clear phases. The organic phase is separated and then dried over anhydrous sodium sulfate. The methylene chloride is removed and the solid residue obtained is recrystallized from heptane/toluene giving the title intermediate compound as a white solid melting at 142–144° C.

reactant | anthranilic acid | 0.6 mol, 82 g | C(C=1C(N)=CC=CC1)(=O)O | C7H7NO2
reactant | α-methylstyrene | 1,28 mol, 168 mL | CC(=C)C1=CC=CC=C1 | C9H10
reactant | hydrochloric acid | 100 mL | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 100 mL | O | H2O
catalyst | zinc chloride | 0.6 mol, 82 g | [Cl-].[Zn+2].[Cl-]
product | 2-Amino-5-α-cumylbenzoic Acid | NC1=C(C(=O)O)C=C(C=C1)C(C)(C)C1=CC=CC=C1 | C16H17NO2
